US06316440B1
A solution of 1.41 g (3.3 mmol) [2-(4-benzyloxy-phenyl)-1-morpholin-4-ylmethyl-ethyl]-carbamic acid tert-butyl ester in 5 mL dichloromethane was treated with 1.5 mL 2,2,2-triflouroacetic acid and the resulting solution stirred 16 hours at 25° C. The mixture was concentrated at reduced pressure to a viscous amber oil to which was added 50 mL saturated aqueous sodium bicarbonate solution and the resulting mixture extracted with three 50 mL portions of ethyl acetate. The combined extracts were washed with 100 mL brine, dried over anhydrous sodium sulfate and concentrated at reduced pressure affording a soft solid, that was recrystallized from 2,2,4-trimethylpentane containing about 5% ethyl acetate to afford 804 mg (77%) of (S)-2-(4-benzyloxy-phenyl)-1-morpholin-4-ylmethyl-ethylamine as light tan crystals; mp 180-182° C.

reactant | [2-(4-benzyloxy-phenyl)-1-morpholin-4-ylmethyl-ethyl]-carbamic acid tert-butyl ester | 3.3 mmol, 1.41 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)CN1CCOCC1)=O | C25H34N2O4
reactant | 2,2,2-triflouroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-2-(4-benzyloxy-phenyl)-1-morpholin-4-ylmethyl-ethylamine | 804 mg, 77% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](CN1CCOCC1)N | C20H26N2O2
